US05432169
17β-(3-Furyl)-14β,15β-epoxy-5β-androstan-3α-ol (II-b)
To a solution of 4.5 g of 14β,15β-epoxy-17β-(3-furyl)-5β-androstan-3-one in 30 ml of dry tetrahydrofuran at-78° C, a solution of 9.8 g of tri-tert-butoxyaluminum-hydride in tetrahydrofuran was added dropwise. The mixture was stirred for 20 hrs, then 40 ml of water were added and the temperature raised to 25° C. The aluminum salts were filtered on a celite cake and washed with methanol. The solution was concentrated under reduced pressure and extracted with methylene chloride. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure to give 4.3 g of the title compound (II-b) as a white solid.

reactant | 14β,15β-epoxy-17β-(3-furyl)-5β-androstan-3-one | 4.5 g | O1[C@]23[C@H]1C[C@@H]([C@@]2(C)CC[C@@H]2[C@]1(CCC(C[C@H]1CC[C@@H]32)=O)C)C3=COC=C3 | C23H30O3
reactant | tri-tert-butoxyaluminum hydride | 9.8 g | C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[H-]
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran at | 30 ml | O1C(CCC1)C(=O)[O-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 17β-(3-Furyl)-14β,15β-epoxy-5β-androstan-3α-ol | 4.3 g | O1C=C(C=C1)[C@@H]1[C@]2(C)[C@]3([C@@H](C1)O3)[C@@H]3CC[C@@H]1C[C@@H](CC[C@]1(C)[C@H]3CC2)O | C23H32O3
